US07091214B2
7-Bromo-2-(2-methoxyethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine was coupled with 5-(tert-butyldimethylsilanyloxymethyl)pyridine-3-boronic acid according to the method described in Examples 118–121. The reaction was heated at reflux for 2.25 hours, and the work-up procedure described in Part F of Examples 125–131 was followed. The crude product was purified and deprotected according to the procedure described in Example 144. The resulting solid was purified by HPFC (eluting with chloroform:CMA in a gradient from 100:0 to 55:45) followed by recrystallization from acetonitrile to provide {5-[4-amino-2-(2-methoxyethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]pyridin-3-yl}methanol as white needles, mp 202–204° C.

reactant | 7-Bromo-2-(2-methoxyethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCOC | C17H21BrN4O
reactant | 5-(tert-butyldimethylsilanyloxymethyl)pyridine-3-boronic acid | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=NC1)B(O)O | C12H22BNO3Si
product | {5-[4-amino-2-(2-methoxyethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]pyridin-3-yl}methanol | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)C)CCOC)C=2C=C(C=NC2)CO | C23H27N5O2
